US08466181B2
c) 2-Bromo-1-[5-(4-fluoro-phenyl)-3-methyl-3H-[1,2,3]-triazol-4-yl]-ethanone
A solution of 1-[5-(4-fluoro-phenyl)-3-methyl-3H-[1,2,3]triazol-4-yl]-ethanone (4.02 g, 18.34 mmol) was dissolved in chloroform (18 mL) and acetic (0.36 mL) was heated to reflux and then a solution of bromine (1.04 mL, 20.17 mmol) in chloroform (9 mL) was added dropwise within 10 min at and after 1 h bromine (0.10 mL, 2.02 mmol) was added and heated under reflux for 1 h. After cooling to room temperature the mixture was poured onto ice-water and the mixture extracted with dichloromethane. The combined organic extracts were washed with water, brine, dried over sodium sulphate, filtered and evaporated. Purification by chromatography (silica, 0 to 100% ethyl acetate in heptane) afforded the title compound (3.48 g, 63%) as a light red solid. MS: m/e=298.1/300.1 [M+H]+.

reactant | 1-[5-(4-fluoro-phenyl)-3-methyl-3H-[1,2,3]triazol-4-yl]-ethanone | 18.34 mmol, 4.02 g | FC1=CC=C(C=C1)C1=C(N(N=N1)C)C(C)=O | C11H10FN3O
reactant | acetic | 0.36 mL | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
reactant | bromine | 20.17 mmol, 1.04 mL | BrBr | Br2
reactant | bromine | 2.02 mmol, 0.10 mL | BrBr | Br2
solvent | chloroform | 18 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 9 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-Bromo-1-[5-(4-fluoro-phenyl)-3-methyl-3H-[1,2,3]-triazol-4-yl]-ethanone | 3.48 g, 63% | BrCC(=O)C=1N(N=NC1C1=CC=C(C=C1)F)C | C11H9BrFN3O
